US07566699B2
4-(β-D-Glucopyranosyloxy)-3-(2-phenylethyl)benzo[b]-thiophene
To a suspension of 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-(2-phenylethyl)benzo[b]thiophene (75 mg) in methanol (3 mL) was added sodium methoxide (28% methanol solution, 0.025 mL), and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was concentrated under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: dichloromethane/methanol=10/1) to give the title compound (42 mg).

reactant | 4-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-3-(2-phenylethyl)benzo[b]thiophene | 75 mg | C(C)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OC(C)=O)OC(C)=O)COC(C)=O)OC1=CC=CC=2SC=C(C21)CCC2=CC=CC=C2 | C30H32O10S
reactant | sodium methoxide | 0.025 mL | C[O-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 4-(β-D-Glucopyranosyloxy)-3-(2-phenylethyl)benzo[b]-thiophene | 42 mg | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=CC=CC=2SC=C(C21)CCC2=CC=CC=C2 | C22H24O6S
